US05399689
A suspension, gassed with nitrogen, of 11.4 g of (3-methoxypropyl)triphenylphosphonium iodide in 50 ml of tetra- hydrofuran is cooled to -5° C., treated with 3.36 g of potassium tert.-butylate, stirred at -5° C. for 10 minutes and at room temperature for 1 hour. After cooling the reaction mixture to -5° C. a solution of 4.6 g of [trans-4-(4-chlorophenyl)cyclo-hexyl]acetaldehyde in 25 ml of tetrahydrofuran is added dropwise within 5 minutes, the mixture is stirred at -5° C. for 10 minutes and at room temperature for 1 hour, treated with 50 ml of water and the aqueous phase is extracted with 100 ml of ethyl acetate. The organic phase is washed with water, dried over sodium sulphate, filtered and concentrated. The residue is taken up in 50 ml of toluene and dissolved by heating to 70° C. and stirring for 30 minutes. The solution is cooled to room temperature, treated with 50 ml of hexane, stirred for 2 hours, filtered and washed with 30 ml of toluene/hexane (1:1 vol.). The filtrate is filtered over 100 g of silica gel and the silica gel is washed with 200 ml of hexane/toluene (1:1 vol.). The filtrate; is concentrated and gives 5.4 g of 1-chloro-4-[trans-4-(5-methoxy-2-pentenyl)cyclo-hexyl]benzene. The following compounds can be manufactured in an analogous manner:

reactant | (3-methoxypropyl)triphenylphosphonium iodide | 11.4 g | [I-].COCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | [trans-4-(4-chlorophenyl)cyclo-hexyl]acetaldehyde | 4.6 g | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CC=O | C14H17ClO
reactant | water | 50 ml | O | H2O
solvent | tetra- hydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-chloro-4-[trans-4-(5-methoxy-2-pentenyl)cyclo-hexyl]benzene | 5.4 g | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CC=CCCOC | C18H25ClO
